US07589095B2
A 1N solution of potassium hydroxide in methanol (110 mL) was added dropwise at 0° C. to a suspension of 2-mercapto-6-propyl-pyrimidin-4-ol (17.0 g) in methanol (220 mL). The mixture was stirred at room temperature for 15 minutes. After cooling at 0° C., iodomethane (6.8 mL) was added dropwise over 15 minutes. The mixture was stirred at room temperature for 6 hours, then filtered. The first precipitate was successively washed with methanol, water, isopropanol, then dried under reduced pressure. The filtrate was concentrated under reduced pressure, triturated with water, filtered. The second precipitate was successively washed with methanol, water, isopropanol, then dried under reduced pressure. Both precipitates were combined to afford 2-methylsulfanyl-6-propyl-pyrimidin-4-ol (15.5 g) as white crystals (mp=158° C.).

reactant | potassium hydroxide | [OH-].[K+]
reactant | 2-mercapto-6-propyl-pyrimidin-4-ol | 17.0 g | SC1=NC(=CC(=N1)O)CCC | C7H10N2OS
reactant | iodomethane | 6.8 mL | IC | CH3I
solvent | methanol | 110 mL | CO | CH4O
solvent | methanol | 220 mL | CO | CH4O
product | 2-methylsulfanyl-6-propyl-pyrimidin-4-ol | 15.5 g | CSC1=NC(=CC(=N1)O)CCC | C8H12N2OS
